US07053089B2
To a 0° C. solution of 4-[(1-benzyloxycarbonyl-piperidin-4-ylmethyl)-amino]-pyridine-2-carboxylic acid (0.59 gm, 0.0016 mol) in THF (2 mL) under nitrogen was added a solution of 1.0M borane-tetrahydrofuran (6 mL) and the mixture allowed to stir at room temperature for 1 h. The reaction was cooled to 0° C., quenched with 1N HCl (10 mL), concentrated and diluted with 10% aqueous sodium bicarbonate. Extraction with dichloromethane (2×50 mL)and concentration of the organic layer gave 540 mg of crude material. Column chromatography using dichloromethane/methanol/ammonium hydroxide—90/10/2 and crystallization from diethyl ether gave 4-[(2-hydroxymethyl-pyridin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester.

reactant | 4-[(1-benzyloxycarbonyl-piperidin-4-ylmethyl)-amino]-pyridine-2-carboxylic acid | 0.0016 mol, 0.59 gm | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=CC(=NC=C1)C(=O)O | C20H23N3O4
reactant | borane tetrahydrofuran | 1.0M, 6 mL | B.O1CCCC1
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[(2-hydroxymethyl-pyridin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=CC(=NC=C1)CO | C20H25N3O3
